US04588732
To a refluxing solution of 1.6 g of 2-(p-bromophenyl)-6-cyano pyridine in 8 ml of tetrahydrofuran is added slowly a solution of 0.92 ml of borane-dimethylsulfide in 6 ml. of tetrahydrofuran. Dimethyl sulfide is simultaneously removed by distillation through a 10 cm vigreux column. The mixture is refluxed for 15 minutes after the addition is complete, cooled to 30°, and 6 ml of 6N hydrochloric acid is added. After hydrogen evolution has ceased, the reaction is refluxed for 30 minutes, cooled to 0°, saturated with solid sodium carbonate and extracted with 4×50 ml aliquots of methylene chloride. The methylene chloride solution is evaporated and the residue is chromatographed through 10.0 g of silica gel with 1:1 methanol-ethyl acetate as eluent to yield 2-aminomethyl-6-(p-bromophenyl)pyridine melting at 71°-75°.

reactant | 2-(p-bromophenyl)-6-cyano pyridine | 1.6 g | BrC1=CC=C(C=C1)C1=NC(=CC=C1)C#N | C12H7BrN2
reactant | borane dimethylsulfide | 0.92 ml | B.CSC
solvent | tetrahydrofuran | 8 ml | O1CCCC1 | C4H8O
product | 2-aminomethyl-6-(p-bromophenyl)pyridine | NCC1=NC(=CC=C1)C1=CC=C(C=C1)Br | C12H11BrN2
